US07429597B2
6-chloro-4-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-amino-propyl-amino]-7-(2,5-dihydropyrrol-1-yl-carbonyl)-quinazoline
Prepared analogously to Example 15c from 6-chloro-4-[(1S)-3-(benzyloxycarbonyl-amino)-1-(5-chloro-1H-benzimidazol-2-yl)-propyl-amino]-7-(2,5-dihydropyrrol-1-yl-carbonyl)-quinazoline and trimethylsilyl iodide.

reactant | 6-chloro-4-[(1S)-3-(benzyloxycarbonyl-amino)-1-(5-chloro-1H-benzimidazol-2-yl)-propyl-amino]-7-(2,5-dihydropyrrol-1-yl-carbonyl)-quinazoline | ClC=1C=C2C(=NC=NC2=CC1C(=O)N1CC=CC1)N[C@@H](CCNC(=O)OCC1=CC=CC=C1)C1=NC2=C(N1)C=CC(=C2)Cl | C31H27Cl2N7O3
reactant | trimethylsilyl iodide | C[Si](C)(C)I | C3H9ISi
product | 6-chloro-4-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-amino-propyl-amino]-7-(2,5-dihydropyrrol-1-yl-carbonyl)-quinazoline | ClC=1C=C2C(=NC=NC2=CC1C(=O)N1CC=CC1)N[C@@H](CCN)C1=NC2=C(N1)C=CC(=C2)Cl | C23H21Cl2N7O
